US07365085B2
c) 2-(3-Benzyloxy-phenyl)-acrylic acid ethyl ester
To 2-(3-Benzyloxy-phenyl)-3-oxo-succinic acid diethyl ester (1.28 g, 3.6 mmol) in water (5 ml) was added formaldehyde (600 uL, 37% solution, 6.6 mmol) and potassium carbonate (0.37 g, 2.7 mmol). The reaction was stirred vigorously overnight The organic products were extracted into diethyl ether which was dried (MgSO4), and evaporated. The residue was purified by column chromatography over silica gel (silica gel 60, EM Science) using 5% ethyl acetate:hexane as eluent to afford 0.99 g (55% yield) of the title compound as an oil. 1H NMR (CDCl3, 400 MHz) δ 7.48-7.27 (m, 6H), 7.10-6.97 (m, 3H), 6.35 (s, 1H), 5.90 (s, 1H), 5.10 (s, 2H), 4.30 (q, J=7.2 Hz, 2H), 1.36 (t, J=7.2 Hz, 3H).

reactant | 2-(3-Benzyloxy-phenyl)-3-oxo-succinic acid diethyl ester | 3.6 mmol, 1.28 g | C(C)OC(C(C(C(=O)OCC)=O)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C21H22O6
reactant | formaldehyde | 6.6 mmol, 600 uL | C=O | CH2O
reactant | potassium carbonate | 2.7 mmol, 0.37 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 5 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-(3-Benzyloxy-phenyl)-acrylic acid ethyl ester | 0.99 g, 55% yield | C(C)OC(C(=C)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C18H18O3
